US08026257B2
(±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate.
(±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol (0.54 g, 1.65 mmol) was dissolved in diethyl ether (5 mL), cooled to 0° C. and treated with 1,8-diazabicyclo(5.4.0)undec-7-ene (50 μL, 0.33 mmol). The reaction was stirred for 10 min and treated with trichloroacetonitrile (250 μL, 2.48 mmol) dropwise over 10 min. The reaction was allowed to warm to room temperature overnight and concentrated. Flash chromatography on silica gel (5% ethyl acetate/hexanes) gave 600 mg (77%) as an oil. 1H-NMR (CDCl3, 300 MHz) δ 8.34 (s, 1H), 8.02 (s, 1H), 7.56 (d, J =1.5 Hz, 1H), 7.33 (m, 1H), 6.62 (q, J=6.2 Hz, 1H), 5.68 (s, 2H), 3.59-3.65 (m, 2H), 1.79 (m, 3H), 0.88-0.94 (m, 2H), 0.05 (s, 9H).

reactant | (±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol | 1.65 mmol, 0.54 g | ClC1=CC2=CN(N=C2C(=C1)C(C)O)COCC[Si](C)(C)C | C15H23ClN2O2Si
reactant | 1,8-diazabicyclo(5.4.0)undec-7-ene | 0.33 mmol, 50 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | trichloroacetonitrile | 2.48 mmol, 250 μL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | (±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate | ClC(C(OC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)Cl)=N)(Cl)Cl | C17H23Cl4N3O2Si
